US09428500B2
2-(4-benzyl-3,5-dimethoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
In a Schlenk tube with a stirring bar, 2-benzyl-5-bromo-1,3-dimethoxybenzene (81.6 mg, 0.266 mmol), potassium acetate AcOK (78 mg, 3 eq), bis(pinacolato)diboron (88 mg, 1.3 eq), and PdCl2(dppf) (19.5 mg, 0.1 eq) were placed. The tube was evacuated and back-filled with nitrogen (this was repeated three additional times). Then, 3.8 mL of degassed 1,4-dioxane (C=0.07M) was introduced. The reaction mixture was allowed to stir at 100° C. for 14 h30. After cooling to r.t. and diluting with AcOEt (10 mL), the mixture was filtered through a Celite® pad. The solvents were removed in vacuo. The crude product was purified by silica gel flash chromatography (PE/AcOEt 100:0 to 93:7) to afford the desired compound in 82% yield (76.9 mg) as white solid. 1H NMR (300 MHz, CDCl3) δ 7.29-7.18 (m, 4H), 7.19-7.07 (m, 1H), 7.05 (s, 2H), 4.08 (s, 2H), 3.88 (s, 6H), 1.38 (s, 12H); 13C NMR (75 MHz, CDCl3) δ 157.9 (2C), 141.6 (C), 128.7 (2CH), 128.0 (2CH), 125.4 (CH), 121.3 (C), 109.8 (2CH), 83.9 (2C), 56.0 (2OCH3), 29.0 (CH2), 25.0 (4CH3); MS (ESI) m/z: 355.3 [M+H]+; 372.5 [M+NH4]+; 726.5 [2M+NH4]+.

reactant | 2-benzyl-5-bromo-1,3-dimethoxybenzene | 0.266 mmol, 81.6 mg | C(C1=CC=CC=C1)C1=C(C=C(C=C1OC)Br)OC | C15H15BrO2
reactant | bis(pinacolato)diboron | 88 mg, 1.3 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | PdCl2(dppf) | 19.5 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-benzyl-3,5-dimethoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 82% yield | C(C1=CC=CC=C1)C1=C(C=C(C=C1OC)B1OC(C(O1)(C)C)(C)C)OC | C21H27BO4
